US09226923B2
To a solution of tert-butyl 7-(benzyloxy)-2-azaspiro[3.5]nonane-2-carboxylate (290 mg, 0.96 mmol, 1.0 equiv) in MeOH (8 mL) was added Pd(OH)2 (43.5 mg, 15 wt %). The mixture was carefully vacuumed and refilled with Hydrogen. The mixture was then stirred at room temperature under hydrogen balloon for 2 hrs. The mixture was passed through a pad of celite and eluted with MeOH (50 mL). The combined methanol solution was concentrated to afford 218 mg (yield 94%) of tert-butyl 7-hydroxy-2-azaspiro[3.5]nonane-2-carboxylate as a pale yellow solid.

reactant | tert-butyl 7-(benzyloxy)-2-azaspiro[3.5]nonane-2-carboxylate | 0.96 mmol, 290 mg, 1.0 equiv | C(C1=CC=CC=C1)OC1CCC2(CN(C2)C(=O)OC(C)(C)C)CC1 | C20H29NO3
reactant | Hydrogen | [H][H] | H2
solvent | MeOH | 8 mL | CO | CH4O
catalyst | Pd(OH)2 | 43.5 mg | [OH-].[OH-].[Pd+2]
product | tert-butyl 7-hydroxy-2-azaspiro[3.5]nonane-2-carboxylate | 218 mg, yield 94% | OC1CCC2(CN(C2)C(=O)OC(C)(C)C)CC1 | C13H23NO3
